US07902369B2
1) Manufacture of 7-((trifluoromethyl)sulfonyloxy)-2-methyl-4H-chromen-4-on
Under nitrogen atmosphere, 0.2 ml of trifluoromethansulfonic anhydride was added at 0° C. to 3 ml solution of pyridine with 10 mg of 7-hydroxy-2-methyl-4H-chromen-4-one, and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction solution, extracted with ethyl acetate. Ethyl acetate layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by silicagel chromatography (hexane/ethyl acetate=10/1) to obtain 112 mg of the above compound as a white solid.

reactant | trifluoromethansulfonic anhydride | 0.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 7-hydroxy-2-methyl-4H-chromen-4-one | 10 mg | OC1=CC=C2C(C=C(OC2=C1)C)=O | C10H8O3
solvent | Water | O | H2O
product | 7-((trifluoromethyl)sulfonyloxy)-2-methyl-4H-chromen-4-on | 112 mg | FC(S(=O)(=O)OC1=CC=C2C(C=C(OC2=C1)C)=O)(F)F | C11H7F3O5S
